US07576135B2
N-[(3R*,4S*)-4-aminotetrahydro-3-furanyl]-5-chloroindole-2-carboxamide
To a solution of the compound obtained in Referential Example 171 (0.5 g) in N,N-dimethylformamide (10 mL) were sequentially added 5-chloroindole-2-carboxylic acid (0.29 g), 1-hydroxybenzotriazole (0.2 g), and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.6 g) at room temperature, followed by stirring at 50° C. for 1 day. The reaction mixture was concentrated, and the residue was diluted with a solvent mixture comprising chloroform and methanol (9:1). The diluted mixture was washed with saturated aqueous sodium hydrogencarbonate and saturated brine, and the organic layer was dried over sodium sulfate anhydrate. The solvent was distilled away under reduced pressure, and the residue was purified by silica gel column chromatography (chloroform:methanol=95:5), to thereby give the title compound (0.2 g).

reactant | 5-chloroindole-2-carboxylic acid | 0.29 g | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
reactant | 1-hydroxybenzotriazole | 0.2 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.6 g | Cl.CN(CCCN=C=NCC)C
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N-[(3R*,4S*)-4-aminotetrahydro-3-furanyl]-5-chloroindole-2-carboxamide | 0.2 g | N[C@H]1[C@H](COC1)NC(=O)C=1NC2=CC=C(C=C2C1)Cl | C13H14ClN3O2
